US06930185B2
A solution of ethyl 5-hydroxy-1H-indole-2-carboxylate (508 mg, 2.48 mmol), 1-bromo-4-(bromomethyl)benzene (681 mg, 2.72 mmol) and potassium carbonate (684 mg, 4.95 mmol) in acetonitrile (12 ml) was stirred at 80° C. for 3 hours. The solvent was distilled off under reduced pressure, ethyl acetate was added to the resulting oil, the mixture was washed with an aqueous saturated sodium chloride solution, and dried over anhydrous sodium sulfate. After the solvent was concentrated under reduced pressure, the resulting residue was purified by alumina column chromatography (developing solvent: ethyl acetate), and converted into powders with isopropyl ether to obtain ethyl 5-[(4-bromobenzyl)oxy]-1H-indole-2-carboxylate (565 mg).

reactant | ethyl 5-hydroxy-1H-indole-2-carboxylate | 2.48 mmol, 508 mg | OC=1C=C2C=C(NC2=CC1)C(=O)OCC | C11H11NO3
reactant | 1-bromo-4-(bromomethyl)benzene | 2.72 mmol, 681 mg | BrC1=CC=C(C=C1)CBr | C7H6Br2
reactant | potassium carbonate | 4.95 mmol, 684 mg | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 12 ml | C(C)#N | C2H3N
product | ethyl 5-[(4-bromobenzyl)oxy]-1H-indole-2-carboxylate | 565 mg | BrC1=CC=C(COC=2C=C3C=C(NC3=CC2)C(=O)OCC)C=C1 | C18H16BrNO3
